US05496875
Preparation of tetradecyl 2,2,6,6-tetramethyl-4-piperidinyl carbonate.
27.7 g (0.1 mol) of tetradecyl chlorocarbonate are added slowly to a solution of 19.4 g (0.1 mol) of 2,2,6,6-tetramethyl-4-piperidinol hydrochloride in 150 ml of dichloromethane, maintaining the temperature at between 0° C. and 5° C. After the end of the addition, the mixture is stirred for 2 hours at ambient temperature, and a solution of 8.8 g (0.22 mol) of NaOH in 50 ml of water is then added slowly, with cooling to -10° C.

reactant | tetradecyl chlorocarbonate | 0.1 mol, 27.7 g | C(OCCCCCCCCCCCCCC)(=O)Cl | C15H29ClO2
reactant | 2,2,6,6-tetramethyl-4-piperidinol hydrochloride | 0.1 mol, 19.4 g | Cl.CC1(NC(CC(C1)O)(C)C)C
reactant | NaOH | 0.22 mol, 8.8 g | [OH-].[Na+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | tetradecyl 2,2,6,6-tetramethyl-4-piperidinyl carbonate | C(OCCCCCCCCCCCCCC)(OC1CC(NC(C1)(C)C)(C)C)=O | C24H47NO3
